US06812228B2
Preparation of (3-Methylsulfanyl-phenyl)-methanol (Step B, Scheme 3)
To a suspension of 3-methylsulfanyl-benzoic acid (38 g, 0.226 mol) in Toluene (500 mL) was added 200 mL of Red-Al® dropwise at 50° C. over 30 minutes. After stirring at room temperature for 3 hours, NaOH 10% (250 mL) was added while cooling with an ice-bath and then stirred overnight. The organic layer was separated and the water layer extracted twice with toluene (2×100 mL). The combined organic layers were dried (K2CO3), concentrated and distilled under reduced pressure to give the desired product (23.8 g, 68%). MS: 152,7 (M+131 ).

reactant | 3-methylsulfanyl-benzoic acid | 0.226 mol, 38 g | CSC=1C=C(C(=O)O)C=CC1 | C8H8O2S
reactant | Red-Al | 200 mL | COCCO[AlH2-]OCCOC.[Na+]
reactant | NaOH | 250 mL | [OH-].[Na+]
solvent | Toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | (3-Methylsulfanyl-phenyl)-methanol | 23.8 g, 68% | CSC=1C=C(C=CC1)CO | C8H10OS
